US08039472B2
To a solution of -(4-Hydroxy-phenyl)-propionic acid tert-butyl ester (1 g, 4.50 mmol) in dry DMF (20 ml) at room temperature under argon is added potassium carbonate (0.62 g, 4.50 mmol) followed by methyl bromoacetate (0.43 ml, 4.50 mmol) and the reaction mixture is stirred at room temperature. The reaction mixture is diluted with EtOAc and washed with water, dried (MgSO4) and evaporated in vacuo to yield a clear colourless liquid. Purification on a Waters 3000 prep HPLC system (C18, MeCN/water) yields 3-(4-Methoxycarbonylmethoxy-phenyl)-propionic acid tert-butyl ester as a pale yellow oil.

reactant | (4-Hydroxy-phenyl)-propionic acid tert-butyl ester | 4.50 mmol, 1 g | C(C)(C)(C)OC(C(C)C1=CC=C(C=C1)O)=O | C13H18O3
reactant | potassium carbonate | 4.50 mmol, 0.62 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl bromoacetate | 4.50 mmol, 0.43 ml | BrCC(=O)OC | C3H5BrO2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(4-Methoxycarbonylmethoxy-phenyl)-propionic acid tert-butyl ester | C(C)(C)(C)OC(CCC1=CC=C(C=C1)OCC(=O)OC)=O | C16H22O5
